US04816475
2-{(4-Phenoxyphenyl)(ethoxycarbonyl)methylene}-1,3,5-trithiane (compound No. 101)
In 50 ml of anhydrous tetrahydrofuran was dissolved 1.58 g of 2-dimethylphosphoryl-1,3,5-trithiane, and 4 ml of 1.6M n-butyl lithium was added dropwise under an argon atmosphere at a temperature of about -70° C. After completion of the dropwise addition, the resulting mixture was stirred for 1 hour. Next, a solution of 1.41 g of ethyl 4-phenoxyphenylglyoxylate dissolved in 5 ml of tetrahydrofuran was dropped thereinto. After completion of the dropping, the reaction temperature was slowly raised to room temperature and the mixture thus obtained was stirred overnight. Thereafter, the same treatment as in Example 1 was carried out to give a crude product, which was then purified by a silica gel column chromatography (chloroform:hexane=2:1) to obtain 1.63 g of the desired compound.

reactant | 2-dimethylphosphoryl-1,3,5-trithiane | 1.58 g | CP(=O)(C)C1SCSCS1 | C5H11OPS3
reactant | n-butyl lithium | 1.6M, 4 ml | C(CCC)[Li]
reactant | ethyl 4-phenoxyphenylglyoxylate | 1.41 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC)=O | C16H14O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-{(4-Phenoxyphenyl)(ethoxycarbonyl)methylene}-1,3,5-trithiane | 1.63 g, Yield 77.0% | O(C1=CC=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC)=C1SCSCS1 | C19H18O3S3
